US05852030
3-(2-tert-butoxycarbonylhydrazino)benzoic acid
The 4.68 g of unpurified 1-tert-butoxycarbonyl-2-(3-methoxycarbonylphenyl)hydrazine was dissolved in 75 ml of 1,4-dioxane, and 25 ml of aqueous 3N potassium hydroxide solution was added to the solution, followed by heating the mixture to reflux for one hour. The reaction mixture was cooled to 0° C., and about 25 ml of 3N hydrochloric acid was added to make the reaction mixture acidic. The mixture was subjected to salting out and the resultant was extracted with ethyl acetate (2×50 ml). The organic layers were combined, dried and concentrated to obtain 4.40 g of unpurified captioned compound.

reactant | 1-tert-butoxycarbonyl-2-(3-methoxycarbonylphenyl)hydrazine | 4.68 g | C(C)(C)(C)OC(=O)NNC1=CC(=CC=C1)C(=O)OC | C13H18N2O4
reactant | potassium hydroxide | 3N | [OH-].[K+]
reactant | hydrochloric acid | 3N, about 25 ml | Cl | ClH
solvent | 1,4-dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 3-(2-tert-butoxycarbonylhydrazino)benzoic acid | C(C)(C)(C)OC(=O)NNC=1C=C(C(=O)O)C=CC1 | C12H16N2O4
